US07973164B2
N-(4-methylthiazol-2-yl)-2-[4-(6-carboxy-7-methoxyquinolin-4-yloxy)phenyl]acetamide
Using an analogous procedure to that described in Example 8, N-(4-methylthiazol-2-yl)-2-[4-(7-methoxy-6-methoxycarbonylquinolin-4-yloxy)phenyl]acetamide was reacted with lithium hydroxide to give the title compound in 97% yield; 1H NMR: (DMSOd6) 2.26 (d, 3H), 3.83 (s, 2H), 4.01 (s, 3H), 6.63 (d, 1H), 6.76 (s, 1H), 7.34 (d, 2H), 7.51 (d, 2H), 7.57 (s, 1H), 8.62 (s, 1H), 8.78 (d, 1H); Mass Spectrum: M+H+ 450.

reactant | N-(4-methylthiazol-2-yl)-2-[4-(7-methoxy-6-methoxycarbonylquinolin-4-yloxy)phenyl]acetamide | CC=1N=C(SC1)NC(CC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)C(=O)OC)OC)=O | C24H21N3O5S
reactant | lithium hydroxide | [OH-].[Li+]
product | N-(4-methylthiazol-2-yl)-2-[4-(6-carboxy-7-methoxyquinolin-4-yloxy)phenyl]acetamide | 97% yield | CC=1N=C(SC1)NC(CC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)C(=O)O)OC)=O | C23H19N3O5S
